US06833480B2
A solution of 2,4-dimethylphenylacetylene (0.02 mol) and 2,4-dimethylbenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-2,4-dimethylstyryl-2,4-dimethylbenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 2,4-dimethylphenylacetylene | 0.02 mol | CC1=C(C=CC(=C1)C)C#C | C10H10
reactant | 2,4-dimethylbenzyl mercaptan | 0.02 mol | CC1=C(CS)C=CC(=C1)C | C9H12S
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,4-dimethylstyryl-2,4-dimethylbenzylsulfide | CC1=C(\C=C/C(C2=C(C=C(C=C2)C)C)SC(C2=C(C=C(C=C2)C)C)\C=C/C2=C(C=C(C=C2)C)C)C=CC(=C1)C | C38H42S
